US04230628
A solution of 3 g. of 4-(15-carbomethoxypentadecylamino)benzonitrile and 0.5 g. of potassium hydroxide in 50 ml. of 95% ethanol is stirred at 50° C. for 10 hours, diluted with water and acidified with dilute hydrochloric acid. The precipitate is collected, dried and recrystallized from ether-hexane to yield 4-(15-carboxypentadecylamino)benzonitrile as a white solid.

reactant | 4-(15-carbomethoxypentadecylamino)benzonitrile | C(=O)(OC)CCCCCCCCCCCCCCCNC1=CC=C(C#N)C=C1 | C24H38N2O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-(15-carboxypentadecylamino)benzonitrile | C(=O)(O)CCCCCCCCCCCCCCCNC1=CC=C(C#N)C=C1 | C23H36N2O2
